US04200754
A solution of 80 g. (0.305 m.) of 2,3-dichlorobenzylidenaminoacetaldehyde dimethyl acetal in 300 ml. of ethyl acetate was divided into two equal parts. Platinum oxide (300 mg.) was added to each and the mixtures were shaken under 20 psi H2 for about seven hours. Filtration, evaporation, and distillation afforded 2,3-dichlorobenzylaminoacetaldehyde dimethyl acetal, b.p. 100°-125° C. (0.005 mm.).

reactant | 2,3-dichlorobenzylidenaminoacetaldehyde dimethyl acetal | COC(C(Cl)N=CC1=CC(=CC=C1)Cl)OC | C11H13Cl2NO2
catalyst | Platinum oxide | 300 mg | [Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-dichlorobenzylaminoacetaldehyde dimethyl acetal | COC(C(Cl)NCC1=CC(=CC=C1)Cl)OC | C11H15Cl2NO2
